US04371720
3-Ethoxycyclohept-2-en-1-one
A solution of 22.3 g. (0.177 mole) of cycloheptan-1,3-dione and 600 mg. (3.16 mmoles) of p-toluenesulfonic acid monohydrate in 86 ml. of ethanol and 250 ml. of toluene was heated at reflux for B 18 hours. A soxhlet extractor filled with molecular sieves (3 A) was used to remove water from the reaction. The reaction was cooled, added to 800 ml. saturated sodium chloride and extracted with four 800 ml. portions of ether. The combined organic extract was dried over magnesium sulfate and evaporated to an oil. Distillation of the crude oil gave 25.3 g. (93%) of the title compound as an oil.

reactant | cycloheptan-1,3-dione | 0.177 mole | C1(CC(CCCC1)=O)=O | C7H10O2
reactant | p-toluenesulfonic acid monohydrate | 3.16 mmoles | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Ethoxycyclohept-2-en-1-one | 93% | C(C)OC1=CC(CCCC1)=O | C9H14O2
